US07932247B2
Preparation of N-(cyclohexylmethyl)-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide
Following the general procedure outlined in Example 66, 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (47.3 mg, 0.0662 mmol), NaH (6.62 mg, 0.262 mmol) and (bromomethyl)cyclohexane (0.0150 mL, 0.108 mmol) in DMF (1.0 mL) were reacted to give the desired product (7.9 mg, 19.6%). EI-MS m/z 611 (M−H)+.

reactant | 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.0662 mmol, 47.3 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C42H55FN4O5
reactant | NaH | 0.262 mmol, 6.62 mg | [H-].[Na+]
reactant | (bromomethyl)cyclohexane | 0.108 mmol, 0.0150 mL | BrCC1CCCCC1 | C7H13Br
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(cyclohexylmethyl)-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-3-(4-piperidinylmethyl)benzamide | 7.9 mg, 19.6% | C1(CCCCC1)CN(C(C1=CC(=CC=C1)CC1CCNCC1)=O)CC=1C=C(C(=CC1)F)C1=CC(=CC=C1)CN1C[C@@H](NCC1)C | C39H51FN4O
